Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Major Surgical or Invasive Procedure:
None

attach
 
Pertinent Results:
ADMISSION LABS:
===============

___ 05:07PM BLOOD WBC-9.4 RBC-3.95* Hgb-11.5* Hct-37.0* 
MCV-94 MCH-29.1 MCHC-31.1* RDW-12.9 RDWSD-44.3 Plt ___
___ 05:07PM BLOOD Neuts-60.6 Lymphs-18.5* Monos-18.0* 
Eos-1.7 Baso-0.6 Im ___ AbsNeut-5.70 AbsLymp-1.74 
AbsMono-1.69* AbsEos-0.16 AbsBaso-0.06
___ 05:07PM BLOOD Glucose-100 UreaN-20 Creat-0.7 Na-141 
K-4.4 Cl-107 HCO3-25 AnGap-9*
___ 05:07PM BLOOD CK(CPK)-26*
___ 11:32PM BLOOD cTropnT-<0.01
___ 11:32PM BLOOD CK-MB-<1
___ 05:07PM BLOOD cTropnT-<0.01
___ 05:07PM BLOOD CK-MB-<1

PERTINENT RESULTS/IMAGING:
==========================

___ 07:40AM BLOOD ALT-40 AST-21 LD(LDH)-309* AlkPhos-154* 
TotBili-0.4
___ 07:30AM BLOOD ALT-61* AST-37 LD(___)-208 AlkPhos-137* 
TotBili-<0.2
___ 05:22AM BLOOD CRP-164.4*
___ 07:40AM BLOOD CRP-200.7*
___ 08:16AM BLOOD RheuFac-10 ___
___ 08:16AM BLOOD CMV IgG-PND CMV IgM-PND CMVI-PND EBV 
IgG-PND EBNA-PND EBV IgM-PND EBVI-PND Lyme Ab-POS* Trep Ab-NEG

___ CXR
IMPRESSION:  
 
Moderate enlargement of the cardiac silhouette. 
  
Small left pleural effusion with overlying atelectasis; left 
base opacity may 
be due to combination of pleural effusion and atelectasis, but 
consolidation 
due to pneumonia is not excluded. 

___ TTE
LVEF 55%
IMPRESSION: Moderate to large pericardial effusion with largest 
loculation along inferolateral
and anterolateral left ventricular free wall. Stranding 
throughout. At the apex proper 1cm of fluid
seen. Minimal free fluid present along RV free wall for 
subcostal approach to percutaneous
drainage. Exaggerated inflow variation consistent with increased 
pericardial pressure but without
frank tamponade (non plethoric IVC no RV free wall collapse). No 
prior study available for
comparison.

___ CT A/P WITH CONTRAST
IMPRESSION: 
  
1. Circumscribed lesion in the inferior margin of hepatic 
segment 2 is 
nonspecific, as is a hypodense 1.2 cm lesion within the left 
lobe.  A liver 
MRI can be performed for further evaluation. 
2. There are nonobstructing stones at the bilateral kidneys. 
3. Hypoattenuating subcentimeter lesions within the kidneys 
bilaterally are 
not well characterized on CT and can also be characterized on 
MR. 

___ CT CHEST WITH CONTRAST
IMPRESSION:  
  
1.  Moderate to large sized pericardial effusion and enhancement 
of the 
pericardium, suggestive of pericarditis. 
2.  Mediastinal lymph nodes measuring up to 1.0 cm are 
nonspecific. 
3.  Small left pleural effusion with associated atelectasis. 
4.  Scattered calcified lymph nodes and calcifications within 
the spleen are 
suggestive prior granulomatous disease. 

BLOOD CULTURE ___
Blood Culture, Routine (Final ___: 
      STAPHYLOCOCCUS, COAGULASE NEGATIVE. 
         Isolated from only one set in the previous five days. 
         SENSITIVITIES PERFORMED ON REQUEST.. 

   Aerobic Bottle Gram Stain (Final ___: 
      GRAM POSITIVE COCCI IN PAIRS AND CLUSTERS. 
      Reported to and read back by 
(___) ON
      ___ @17:00. 
BLOOD CULTURE ___
 Blood Culture, Routine (Final ___:    NO GROWTH.

DISCHARGE LABS:
===============

___ 07:30AM BLOOD WBC-6.4 RBC-4.25* Hgb-12.3* Hct-39.0* 
MCV-92 MCH-28.9 MCHC-31.5* RDW-12.4 RDWSD-41.2 Plt ___
___ 07:30AM BLOOD Glucose-88 UreaN-29* Creat-0.7 Na-145 
K-4.7 Cl-108 HCO3-21* AnGap-16
___ 07:30AM BLOOD ALT-61* AST-37 LD(LDH)-208 AlkPhos-137* 
TotBili-<0.2
___ 07:30AM BLOOD Albumin-3.6 Calcium-9.3 Phos-4.4 Mg-2.3
 
Brief Hospital Course:
TRANSITIONAL ISSUES:
===================
[] Medications STARTED: indomethacin 50 TID (with taper 50 TID 
for 1 week, 25 TID for 1 week, 25 BID for 1 week, 25 daily for 1 
week), colchicine 0.6 BID, pantoprazole 40 daily

[] Cardiology
-Patient was noted to have a moderate to large pericardial 
effusion with a large loculation and stranding throughout on 
___. Consider repeat ECHO in ___ months to ensure 
improvement

[] ID
-Follow up infectious workup for pericarditis. Some infectious 
studies are still pending at time of discharge, including CMV, 
EBV, Lyme, Adenovirus PCR, mycoplasma, legionella, anaplasma, 
B-glucan, histoplasma, and quantiferon gold.

[] PCP
-___ demonstrated a circumscribed and hypodense 
lesion in the liver, and hypoattenuating subcentimeter lesions 
within the kidneys bilaterally. Should obtain MRI to better 
characterize these as an outpatient.

SUMMARY:
========
Mr. ___ is a ___ man with no significant past medical 
history who was recently diagnosed with pericarditis two weeks 
ago and is presenting for ongoing chest pressure, lethargy, 
cyclical fevers and significant night sweats, found to have 
recurrent pericarditis. He was started on anti-inflammatories as 
above and had symptomatic improvement. He was evaluated by 
infectious diseases, with broad infectious workup pending at the 
time of discharge. He will follow up with ID as an outpatient. 

ACTIVE ISSUES: 
============== 
#Pericarditis
Patient admitted for ongoing symptoms related to his known 
pericarditis. He initially clinically improved with ibuprofen 
and colchicine after discharge from ___, but his 
symptoms recurred and progressed over the last several days, 
prompting him to present to ___. Although etiology of his 
percarditis still remains was felt to be viral, his significant 
elevation in CRP, persistence of night sweats, and cyclical 
fevers was concerning for a possible underlying etiology. CT 
C/A/P demonstrated scattered calcified lymph nodes and 
calcifications within the spleen, a circumscribed and hypodense 
lesion in the liver, and hypoattenuating subcentimeter lesions 
within the kidneys bilaterally. ID was consulted, and although 
still most likely that this is viral pericarditis, extensive 
infectious/rheumatologic workup was sent which revealed elevated 
CRP (200.7), negative ANCA, negative hep b panel. Infectious 
workup and ___ were pending at time of discharge as above. In 
addition, there was ongoing concern for possible malignant 
etiology. He does have CT A/P with circumscribed lesion in 
hepatic lobe and subcentimeter lesions in the kidney. This may 
benefit from further characterization with MRI as an outpatient. 
Clinically, he improved with discontinuation of ibuprofen and 
starting indomethacin while continuing colchicine. He will 
continue pantoprazole ppx and have close cardiology, ID and PCP 
___. He should colchicine for 3 months and was discharged 
with an indomethacin taper (50mg TID for 1 week, 25mg TID for 1 
week, 25mg BID for 1 week, 25mg daily for 1 week).

# Transaminitis: elevated ALT, LDH and alk phos, may be in 
setting of inflammation. However, given nondescript liver lesion 
he may benefit from outpatient MRI for further characterization.

# Anemia: 
# Thrombocytosis: 
Likely ___ acute inflammation. Hb improved at discharge to 12.3 
and plt 466.
 
Medications on Admission:
NONE
 
Discharge Medications:
1.  Colchicine 0.6 mg PO BID 
RX *colchicine 0.6 mg 1 tablet(s) by mouth twice a day Disp #*60 
Capsule Refills:*2 
2.  Indomethacin 50 mg PO TID 
RX *indomethacin 25 mg 2 capsule(s) by mouth three times a day 
Disp #*120 Capsule Refills:*0 
3.  Pantoprazole 40 mg PO Q24H 
RX *pantoprazole 40 mg 1 tablet(s) by mouth once a day Disp #*30 
Tablet Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary
Pericarditis 

Secondary
Transaminitis
Anemia
Thrombocytopenia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,
  
It was a pleasure taking care of you at ___ 
___.  
  
 WHY WAS I ADMITTED TO THE HOSPITAL? 
========================================== 
- You were admitted to the hospital because of worsening chest 
pain from pericarditis.
 
 WHAT HAPPENED WHILE I WAS IN THE HOSPITAL?  
===============================================
- We sent some lab work to evaluate for the cause of your 
pericarditis.
- We started you on some medications (indomethacin and 
colchicine) to treat the pericarditis.

 WHAT SHOULD I DO WHEN I GO HOME?  
====================================
- You should continue to take your medications as prescribed.  
- If you are experiencing new or concerning chest pain that is 
coming and going you should call the heartline at ___.
- You should also call the heartline if you develop swelling in 
your legs, abdominal distention, or shortness of breath at 
night.  
- You should attend the appointments listed below. You will have 
follow up with cardiology and infectious disease to follow up on 
the infectious studies that were sent while you were in the 
hospital.

We wish you the best! 
 
Your ___ Care Team  

 
Followup Instructions:
___